US06518305B1
(±)-(1S,2S,3R,4R)-2-Aminomethyl-3-acetamidomethyl-4-methoxycarbonyl-cyclopentane-1-carboxylic Acid Hydrochloride
A solution of (±)-(1S,2S,3R,4R)-3-Acetamidomethyl-2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonylcyclopentane-1-carboxylic acid (62 mg, 0.16 mmol) in of dichloromethane (4 mL) was reacted with trifluoroacetic acid (1.0 mL) for 1 hour, at room temperature. The solution was concentrated in vacuo, at 25° C. The residue was treated with 1 N HCl and concentrated in vacuo to provide the title compound as a white solid (yield: 39 mg, 75%).

reactant | (±)-(1S,2S,3R,4R)-3-Acetamidomethyl-2-(N-t-butoxycarbonylamino)methyl-4-methoxycarbonylcyclopentane-1-carboxylic acid | 0.16 mmol, 62 mg | C(C)(=O)NC[C@@H]1[C@@H]([C@H](C[C@H]1C(=O)OC)C(=O)O)CNC(=O)OC(C)(C)C | C17H28N2O7
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (±)-(1S,2S,3R,4R)-2-Aminomethyl-3-acetamidomethyl-4-methoxycarbonyl-cyclopentane-1-carboxylic Acid Hydrochloride | yield: 39 mg, 75% | Cl.NC[C@@H]1[C@H](C[C@H]([C@@H]1CNC(C)=O)C(=O)OC)C(=O)O | InChI=1S/C12H20N2O5.ClH/c1-6(15)14-5-10-8(12(18)19-2)3-7(11(16)17)9(10)4-13;/h7-10H,3-5,13H2,1-2H3,(H,14,15)(H,16,17);1H/t7-,8+,9+,10-;/m0./s1
